* E:\1. Electrical Engineering\Power Electronics Final\Power-Electronics-Final\Task 1\Model 2\task1_model2.asc
V_PWM N005 0 PULSE(0 10 0 10n 10n 5u 10u)
R_g N003 N005 {Rg}
Q1 N001 N003 N006 0 2N3904
Q2 N006 N003 0 0 2N2907
M1 N004 N006 0 0 AO6408
Vd N001 0 30
Vs N002 0 20
R2 N002 N004 20
.model NPN NPN
.model PNP PNP
.lib C:\Users\ASUS ROG\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\ASUS ROG\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 1m 0.98m 0.1n
* G
* D
* S
.step param Rg 2 50 12
.backanno
.end
